### PR TITLE
[Merged by Bors] - feat(NumberTheory/RamificationInertia/Galois): ramification inertia refactor

### PR DESCRIPTION
**Pull request by tb65536**
This is a first pass at refactoring `NumberTheory/RamificationInertia/Galois` to use the new definitions `ramificationIdx'` and `inertiaDeg'`. I tried to keep changes to downstream files minimal to keep this PR on the smaller side. More will be done in future PRs.

---

- [x] depends on: #39189
- [x] depends on: #39714
- [x] depends on: #39977
- [x] depends on: #40123
- [x] depends on: #40124
- [x] depends on: #40130
- [x] depends on: #40203
- [x] depends on: #40247
- [x] depends on: #40373
- [x] depends on: #40374
- [x] depends on: #40436

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/RamificationInertia/HilbertTheory.lean [hunk 1]
```diff
@@ -208,7 +208,7 @@ theorem IsInertiaField.rank_left (hp : p ≠ ⊥) :
   have : p.IsMaximal := over_def P p ▸ Ideal.IsMaximal.under A P
   have : Finite (A ⧸ p) := Ring.HasFiniteQuotients.finiteQuotient hp
   rw [← IsGaloisGroup.card_eq_finrank (inertia Gal(L/K) P) E L,
-    card_inertia_eq_ramificationIdxIn p hp]
+    card_inertia_eq_ramificationIdxIn p]
```
Comment (xroblot) [inline Mathlib/NumberTheory/RamificationInertia/HilbertTheory.lean]:
```suggestion
  rw [← IsGaloisGroup.card_eq_finrank (inertia Gal(L/K) P) E L, card_inertia_eq_ramificationIdxIn p]
```

**Comment by xroblot** [comment]
LGTM! This is a really nice improvement. There's clearly still plenty more to do down the line, but this is a great first step. Thanks for the work!

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean [hunk 2]
```diff
@@ -135,152 +134,131 @@ instance isPretransitive_of_isGaloisGroup : MulAction.IsPretransitive G (primesO
     rcases exists_smul_eq_of_isGaloisGroup p P Q G with ⟨σ, hs⟩
     exact ⟨σ, Subtype.val_inj.mp hs⟩
 
-include G in
+include p G in
 /-- All the `Ideal.ramificationIdx` over a fixed maximal ideal are the same. -/
```
Comment (xroblot) [inline Mathlib/NumberTheory/RamificationInertia/Galois.lean:138]: The docstring does not exactly match the lemma -- talks about `Ideal.ramificationIdx` rather than `Ideal.ramificationIdx'` --, but I guess it's only temporary so it's fine.

Comment (xroblot) [reply Mathlib/NumberTheory/RamificationInertia/Galois.lean:138]: (Same below)

**Review by xroblot — APPROVED** [review]
LGTM, Thanks!

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean (hunk 2 above)
Comment (tb65536) [reply Mathlib/NumberTheory/RamificationInertia/Galois.lean:138]: Yeah, I figured it was simplest to leave the docstrings and theorem names unchanged.

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean [hunk 3]
```diff
@@ -135,152 +134,131 @@ instance isPretransitive_of_isGaloisGroup : MulAction.IsPretransitive G (primesO
...
-omit hp in
-include G GAC GBC in
-theorem ramificationIdxIn_mul_ramificationIdxIn' [IsDomain A] [IsTorsionFree A B]
-    [IsDedekindDomain B] [IsDedekindDomain C] [P.LiesOver p] :
-    p.ramificationIdxIn B * P.ramificationIdxIn C = p.ramificationIdxIn C := by
-  obtain ⟨⟨Q, _, hQ⟩⟩ := P.nonempty_primesOver (S := C)
-  have : Q.LiesOver p := LiesOver.trans Q P p
-  rw [ramificationIdxIn_eq_ramificationIdx p P G, ramificationIdxIn_eq_ramificationIdx p Q GAC,
-    ramificationIdxIn_eq_ramificationIdx P Q GBC, ramificationIdx_algebra_tower' p P Q]
+@[deprecated (since := "2026-05-07")] alias ramificationIdxIn_mul_ramificationIdxIn' :=
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/RamificationInertia/Galois.lean]: Can you update the date?

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean [hunk 4]
```diff
@@ -297,52 +275,56 @@ open scoped Pointwise
...
-  have := (show p.IsPrime from P.over_def p ▸ inferInstance).isMaximal hp
   have H := ncard_primesOver_mul_card_inertia_mul_finrank (G := G) p P
-  refine mul_right_injective₀ (IsDedekindDomain.primesOver_ncard_ne_zero p S) ?_
-  refine mul_left_injective₀ (b := Module.finrank (R ⧸ p) (S ⧸ P)) ?_ ?_
-  · intro e; simp [e, eq_comm, Nat.card_eq_zero, ‹Finite G›.not_infinite] at H
-  dsimp only
-  rw [H, mul_assoc, ← inertiaDeg_algebraMap, ← inertiaDegIn_eq_inertiaDeg p P G,
-    ncard_primesOver_mul_ramificationIdxIn_mul_inertiaDegIn hp S G]
+  rw [← inertiaDegIn_eq_inertiaDeg p P G] at H
+  have := H
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/RamificationInertia/Galois.lean]: This line is strange.

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean [hunk 5]
```diff
@@ -297,52 +275,56 @@ open scoped Pointwise
...
-      Module.finrank (R ⧸ p) (S ⧸ P) := by
-  have : IsGalois (R ⧸ p) (S ⧸ P) := { __ := Ideal.Quotient.normal (A := R) G p P }
-  have := Ideal.Quotient.finite_of_isInvariant G p P
+theorem card_stabilizer_eq_card_inertia_mul_finrank (p : Ideal R) [p.IsPrime]
+    (P : Ideal S) [P.LiesOver p] [P.IsPrime] [PerfectField p.ResidueField] :
+    Nat.card (MulAction.stabilizer G P) = Nat.card (inertia G P) * P.inertiaDeg' R := by
+  let := Localization.AtPrime.algebraOfLiesOver p P
+  let : Algebra (R ⧸ p) p.ResidueField := inferInstance
+  let : Algebra (S ⧸ P) P.ResidueField := inferInstance
+  let heq : (algebraMap (S ⧸ P) P.ResidueField).comp (algebraMap (R ⧸ p) (S ⧸ P)) =
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/RamificationInertia/Galois.lean]:
```suggestion
  have heq : (algebraMap (S ⧸ P) P.ResidueField).comp (algebraMap (R ⧸ p) (S ⧸ P)) =
```
Why not.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean (hunk 4 above)
Comment (tb65536) [reply Mathlib/NumberTheory/RamificationInertia/Galois.lean]: It was for the grind (to preserve a copy of `H` before it changes again), but I've changed it to something a little more sensible/intelligible.
